Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][H:3].[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]/[C:2]([H:3])=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.28067788291
[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.45616254484
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13].[H:14],-0.283742591933
[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.96611859109
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],1.1953014265000002
[C:1]#[C:2].[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],-7.4183149421
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.66362373207
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]1>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],4.1563299949
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:5],1.31809835064
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7].[O:8]=[C:9]([H:10])[H:11],1.68385958332
[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-2.81074440265
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.45090616557
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][O:10][H:11]>>[H:1][C:2]=[C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11],-3.28444481028
[H:13].[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11](/[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.76283299558
[O:1]=[C:2]([H:3])[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],6.27513069374
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.81566597132
[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.10954861655
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13].[H:4],1.70031135595
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10],3.98874010158
[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.13578210662
[O:1]=[C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],3.68970371026
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4][C:7]#[C:5][H:6],-0.92015937471
[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-5.11191286331
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[C:7]2[O:8][C:9]12,-0.5520903003909999
[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]1>>[H:1][C:2]#[C:11][C:7]([C:4]([C:3])([H:5])[H:6])=[C:8]([H:9])[H:10],1.6292393015200002
[H:1][C:2]([H:3])([O:4][C:5]([H:6])[H:7])[C:12]([O:11][C:8]([H:9])[H:10])([H:13])[H:14]>>[H:1][C:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]1([H:13])[H:14],-3.53086402
